$correct instance parameters
* Netlist tests XDM will remove NF and LDE parameters 
* from pfet model since those don't exist in level=3
* model, while preserving them in level=54 model where
* it is actually defined (see issue #113 on XDM gitlab)

VD 1 0 1.2
VG 2 0 DC=0
M1 1 2 3 1 pfet L=60e-9 W=1900e-9 AD=33.6e-15 AS=33.6e-15 PD=740e-9 PS=740e-9 NRD=476.2e-3 NRS=476.2e-3 NF=1 SA=160e-9 SB=160e-9 SD=0
M2 3 2 0 0 nfet L=60e-9 W=210e-9 AD=33.6e-15 AS=33.6e-15 PD=740e-9 PS=740e-9 NRD=476.2e-3 NRS=476.2e-3 NF=1 SA=160e-9 SB=160e-9 SD=0

.DC VG 0 1.2 0.05
.PRINT DC V(2) V(3)

.MODEL NFET NMOS (LEVEL=54)
.MODEL PFET PMOS (LEVEL=3)
